US05705516
2-Acetamido-4methylthiazole-5-sulfonyl chloride (5.2 g) in tetrahydrofuran (100 cm3) was stirred at ambient temperature and treated portionwise with diethylamine (4.5 cm3). The mixture was stirred for 4 hours, evaporated under reduced pressure and the residue extracted into ethyl acetate (200 cm3), washed with water (2×100 cm3), dried (MgSO4) and re-evaporated under reduced pressure to give N,N-diethyl 2-acetamido-4-methylthiazole-5-sulfonamide (4.9 g). 1H NMR: δ 1.20(6H,t); 2.28(3H,s); 2.57(3H,s); 3.32(4H,q); 9.7(1H,br s); (solid).

reactant | 2-Acetamido-4methylthiazole-5-sulfonyl chloride | 5.2 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | diethylamine | 4.5 cm3 | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
product | N,N-diethyl 2-acetamido-4-methylthiazole-5-sulfonamide | 4.9 g | C(C)N(S(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)CC | C10H17N3O3S2
